US05053338
A mixture of 2.00 g (10.5 mmol) of 6-(4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone, prepared as described in Example 13, 1.60 g (11.6 mmol) of anhydrous K2CO3 and 2.30 g (11.8 mmol) of ethyl 4-bromobutyrate in 40 ml of DMF is heated at 100° C. for 2 hrs under N2. The DMF is removed under vacuum and the residue taken up in 150 ml of EtOAc and 75 ml of water. The organic phase is washed with 5% aqueous NaOH, then with saturated NaCl, dried (MgSO4), and the solvent removed to leave 2.58 g of 6-[4-[3-carboethoxy-propyloxy]phenyl]-4,5-dihydro-3(2H)-pyridazinone as a white solid. Yield, 81%.

reactant | 6-(4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 10.5 mmol, 2.00 g | OC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H10N2O2
reactant | K2CO3 | 11.6 mmol, 1.60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 4-bromobutyrate | 11.8 mmol, 2.30 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 6-[4-[3-carboethoxy-propyloxy]phenyl]-4,5-dihydro-3(2H)-pyridazinone | 2.58 g | C(=O)(OCC)CCCOC1=CC=C(C=C1)C=1CCC(NN1)=O | C16H20N2O4
